US04728654
Preparation of 8-methyl-6-[4-(4-pyridylmethoxy)phenyl]-2-(1H)-quinolone
A solution of diethylazodicarboxylate (0.189 cm3) in THF (5 cm3) was added at room temperature to a stirred suspension of 8-methyl-6-[4-hydroxyphenyl]-2-(1H)-quinolone (0.25 g), 4-hydroxymethylpyridine (0.109 g) and triphenylphosphine (0.315 g) in THF (10 cm3) under nitrogen. The mixture was heated under reflux for 18 hours, silica (10 g) (Merck "MK 60.9385" [Trade Mark]) was added and voltatile material was removed in vacuo. The residue was placed on top of a silica column (Merck "MK 60.9385" [Trade Mark]) and eluted with ethyl acetate:methanol, 9:1. Combination and evaporation of the appropriate fractions in vacuo gave a solid (0.24 g) which was recrystallised from ethyl acetate-methanol to afford the title compound, m.p. 270.5°-273.5°, (0.08 g).

reactant | diethylazodicarboxylate | 0.189 cm3 | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 8-methyl-6-[4-hydroxyphenyl]-2-(1H)-quinolone | 0.25 g | CC=1C=C(C=C2C=CC(NC12)=O)C1=CC=C(C=C1)O | C16H13NO2
reactant | 4-hydroxymethylpyridine | 0.109 g | OCC1=CC=NC=C1 | C6H7NO
reactant | triphenylphosphine | 0.315 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 cm3 | C1CCOC1 | C4H8O
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
product | 8-methyl-6-[4-(4-pyridylmethoxy)phenyl]-2-(1H)-quinolone | 0.24 g | CC=1C=C(C=C2C=CC(NC12)=O)C1=CC=C(C=C1)OCC1=CC=NC=C1 | C22H18N2O2
